US06664258B1
1-(4-Fluoro-phenyl)-4-cyclohexanone
A solution of 1-(1,4-dioxa-spiro[4.5]dec-8-yl)-4-(4-fluoro-phenyl)-piperazine (3.13 gm) (C18H25FN2O2) in 100 ml 3N hydrochloric acid and 100 ml dioxane was stirred at ambient temperature for 2 hours. The mixture is cooled to 0° C., neutralized with 2N sodium hydroxide and extracted with 2×100 ml ethyl acetate. The ethyl acetate layer was washed with water and brine (each 2×40 ml), dried over sodium sulfate and concentrated to a solid. This material, which was recrystallized from ethyl ether (1.5 gm), has a melting point of 104-106° C.

reactant | 1-(1,4-dioxa-spiro[4.5]dec-8-yl)-4-(4-fluoro-phenyl)-piperazine | 3.13 gm | O1CCOC12CCC(CC2)N2CCN(CC2)C2=CC=C(C=C2)F | C18H25FN2O2
reactant | sodium hydroxide | 2N | [OH-].[Na+]
solvent | hydrochloric acid | 3N, 100 ml | Cl | ClH
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
product | 1-(4-Fluoro-phenyl)-4-cyclohexanone | FC1=CC=C(C=C1)C1CCC(CC1)=O | C12H13FO
